US05116863
(Reagent 1) (3-Dimethylaminopropyl)-triphenylphosphonium bromide hydrobromide
Then, 100.0 g of (3-bromopropyl)-triphenylphosphonium bromide hydrobromide is suspended in 500 ml of ethanol and 300 ml of 50% aqueous dimethylamine solution is added thereto. After heating the mixture at reflux for 10 minutes, the mixture is allowed to stand for cooling. The solvent is distilled away under reduced pressure and the resultant crude product is recrystallized from ethanol to obtain 64.0 g of the desired product having the physicochemical properties as identified in Table 8.

reactant | (3-bromopropyl)-triphenylphosphonium bromide hydrobromide | 100.0 g | Br.[Br-].BrCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | dimethylamine | 300 ml | CNC | C2H7N
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | (3-Dimethylaminopropyl)-triphenylphosphonium bromide hydrobromide | 64.0 g | Br.[Br-].CN(CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C23H27NP.2BrH/c1-24(2)19-12-20-25(21-13-6-3-7-14-21,22-15-8-4-9-16-22)23-17-10-5-11-18-23;;/h3-11,13-18H,12,19-20H2,1-2H3;2*1H/q+1;;/p-1
